US04960779
An oily suspension (50% by weight; 3.1 g) of sodium hydride is added at a temperature in the region of -5° C. to a solution, maintained under a nitrogen atmosphere, of 3-hydroxy-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone (10 g) in anhydrous dimethylformamide (180 cc), and the suspension obtained is stirred for 30 minutes at a temperature in the region of 0° C. A solution of cyclohexyl methyl ketone (8.2 g) in anhydrous dimethylformamide (20 cc) is then added and stirring is continued for 6 hours at a temperature in the region of 0° C. and then for 16 hours at a temperature in the region of 20° C. The reaction mixture is then poured into distilled water (800 cc). The solid obtained is separated by filtration, washed with water, dried in the air, and then recrystallized in acetonitrile and finally purified by chromatography under pressure (50 kPa) on silica gel (0.04-0.063 mm; 140 g) contained in a column 2.8 cm in diameter. Elution is performed with methylene chloride, collecting 20-cc fractions. Fractions 25 to 62 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The solid obtained is taken up with ethyl ether (100 cc) and separated by filtration. 3-(2-Cyclohexyl-2- oxoethyl)-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone (4.8 g), m.p. 140° C., is obtained.

reactant | sodium hydride | 3.1 g | [H-].[Na+]
reactant | 3-hydroxy-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone | 10 g | OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)OC | C17H13N3O3
reactant | cyclohexyl methyl ketone | 8.2 g | CC(=O)C1CCCCC1 | C8H14O
reactant | ethyl ether | 100 cc | C(C)OCC | C4H10O
solvent | dimethylformamide | 180 cc | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 cc | CN(C=O)C | C3H7NO
product | 3-(2-Cyclohexyl-2- oxoethyl)-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone | 4.8 g | C1(CCCCC1)C(CC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)OC)=O | C25H25N3O3
